US08486952B2
To a solution of 2-chloro-N-ethyl-N-methyl-8-phenyl-5,6,7,8-tetrahydroquinazolin-4-amine (42.9 mg, 0.142 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (31.8 mg, 0.142 mmol) in THF (2 mL) was added 60% suspension of sodium hydride in mineral oil (6.82 mg, 0.284 mmol). The reaction mixture was heated with stirring in a capped vial at 80° C. for 1.5 h. The reaction mixture was carefully partitioned between an aqueous solution of ammonium chloride and dichloromethane. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by reverse-phase preparative HPLC to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-ethyl-N4-methyl-8-phenyl-5,6,7,8-tetrahydroquinazoline-2,4-diamine (31.6 mg, 0.048 mmol, 33.5% yield) as brown oil. LC-MS (M+H)+=489.2. 1H NMR (500 MHz, CDCl3) δ ppm 11.50 (1H, br s), 7.74 (1H, d, J=1.2 Hz), 7.39 (1H, dd, J=8.5, 2.1 Hz), 7.29 (2H, dd, J=4.9, 2.7 Hz), 7.21-7.27 (2H, m), 7.12-7.19 (3H, m), 7.07 (1H, d, J=1.5 Hz), 4.20 (1H, t, J=7.0 Hz), 3.80 (3H, s), 3.68-3.78 (2H, m, J=13.8, 7.0, 7.0, 7.0, 7.0 Hz), 3.31 (3H, s), 2.64-2.82 (2H, m), 2.27 (1H, ddd, J=13.3, 7.5, 5.2 Hz), 1.88-1.99 (1H, m), 1.74-1.85 (1H, m), 1.54-1.67 (1H, m), 1.34 (3H, t, J=7.0 Hz).

reactant | 2-chloro-N-ethyl-N-methyl-8-phenyl-5,6,7,8-tetrahydroquinazolin-4-amine | 0.142 mmol, 42.9 mg | ClC1=NC=2C(CCCC2C(=N1)N(C)CC)C1=CC=CC=C1 | C17H20ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.142 mmol, 31.8 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-ethyl-N4-methyl-8-phenyl-5,6,7,8-tetrahydroquinazoline-2,4-diamine | 0.048 mmol, 31.6 mg, 33.5% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NC=2C(CCCC2C(=N1)N(C)CC)C1=CC=CC=C1)OC | C27H29ClN6O
